US07820673B2
91a) tert-butyl 4-(2-hydroxyethyl)amino-1-piperidinecarboxylate
A solution of tert-butyl 4-oxo-1-piperidinecarboxylate (15 g), 2-aminoethanol (14 ml), acetic acid (6.6 ml) in 1,2-dichloroethane (300 ml) was mixed at room temperature for 1 hour, and then sodium triacetoxyborohydride (49 g) was added thereto, followed by mixing at room temperature for 15 hours. pH of the aqueous layer was adjusted to about 12 by adding a 1 N aqueous sodium hydroxide solution to the reaction mixture, and then extracted with chloroform. The extract was dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure to obtain the title compound as a colorless oil (18 g, 89%).

reactant | tert-butyl 4-oxo-1-piperidinecarboxylate | 15 g | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
reactant | 2-aminoethanol | 14 ml | NCCO | C2H7NO
reactant | sodium triacetoxyborohydride | 49 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | 1,2-dichloroethane | 300 ml | ClCCCl | C2H4Cl2
solvent | acetic acid | 6.6 ml | C(C)(=O)O | C2H4O2
product | tert-butyl 4-(2-hydroxyethyl)amino-1-piperidinecarboxylate | 18 g, 89% | OCCNC1CCN(CC1)C(=O)OC(C)(C)C | C12H24N2O3
